US07176227B2
Synthesis of 3-nitro-4-propylamino benzonitrile
In DMF (15 ml), 3-nitro-4-aminobenzonitrile (500 mg) was dissolved, and the solution was added with sodium hydride (135 mg), followed by stirring at room temperature for 9 hours. The solution was added with 1-iodopropane (328 ml) and stirred overnight at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was then dissolved in chloroform. The solution was washed with water and then subjected to extraction with chloroform. The organic layer was washed with saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was then purified through silica gel column chromatography (chloroform), thereby obtaining the subject compound (362 mg) as a white solid.

reactant | 3-nitro-4-aminobenzonitrile | 500 mg | [N+](=O)([O-])C=1C=C(C#N)C=CC1N | C7H5N3O2
reactant | sodium hydride | 135 mg | [H-].[Na+]
reactant | 1-iodopropane | 328 ml | ICCC | C3H7I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-nitro-4-propylamino benzonitrile | 362 mg | [N+](=O)([O-])C=1C=C(C#N)C=CC1NCCC | C10H11N3O2
